US07432288B2
3-[(4-Methoxyphenyl)amino]-1-[(5-methylisoxazol-3-yl)methyl]-4-phenyl-1H-pyrrole-2,5-dione
To a solution of 3-[(4-methoxyphenyl)amino]-4-phenyl-1H-pyrrole-2,5-dione (0.17 mmol, 50 mg), 5-methylisoxazole-3-methanol (0.19 mmol, 21 mg) and diethyl azodicarboxylate (0.19 mmol, 33 mg) in dry THF (1 mL) was added triphenylphosphine (0.19 mmol, 49 mg) in dry THF (1 mL). The mixture was heated in a microwave reactor at 130° C. for six min. After cooling, the reaction mixture was purified by HPLC (95% 0.1M ammonium acetate buffer: 5% CH3CN→100% CH3CN) to give 14 mg (21%) of the title compound. 1H NMR (400 MHz, CDCl3) δ 7.23 (bs, 1H), 7.16-7.06 (m, 3H), 7.01-6.96 (m, 2H), 6.63-6.53 (m, 4H), 6.03 (d, J=0.7 Hz, 1H), 4.82 (s, 2H), 3.70 (s, 3H), 2.39 (d, J=0.7 Hz, 3H).

reactant | 3-[(4-methoxyphenyl)amino]-4-phenyl-1H-pyrrole-2,5-dione | 0.17 mmol, 50 mg | COC1=CC=C(C=C1)NC=1C(NC(C1C1=CC=CC=C1)=O)=O | C17H14N2O3
reactant | 5-methylisoxazole-3-methanol | 0.19 mmol, 21 mg | CC1=CC(=NO1)CO | C5H7NO2
reactant | diethyl azodicarboxylate | 0.19 mmol, 33 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.19 mmol, 49 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-[(4-Methoxyphenyl)amino]-1-[(5-methylisoxazol-3-yl)methyl]-4-phenyl-1H-pyrrole-2,5-dione | 14 mg, 21% | COC1=CC=C(C=C1)NC=1C(N(C(C1C1=CC=CC=C1)=O)CC1=NOC(=C1)C)=O | C22H19N3O4
